US06143764
6,7-Dimethoxy-4-(5-indolyloxy)quinoline [16]
4-Chloro-6,7-dimethoxyquinoline (1.0 g) and commercially available 5-hydroxyindole (1.19 g) were mixed and stirred at 150° C. for 1.5 hours. The reaction mixture was neutralized with saturated aqueous sodium hydrogen carbonate and then partitioned between water and ethyl acetate, and the ethyl acetate layer was washed with brine and then dried with anhydrous sodium sulfate. After removing the solvent by reduced-pressure distillation, the resulting residue was purified by column chromatography on silica gel eluting in sequence with hexane/ethyl acetate, chloroform and chloroform/methanol, to obtain 898 mg of the title compound (yield: 63%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 1.0 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 5-hydroxyindole | 1.19 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 6,7-Dimethoxy-4-(5-indolyloxy)quinoline | 898 mg, yield: 63% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CNC2=CC1 | C19H16N2O3
